US05541229
tert.butyl 4'-[(2-n-butyl-6-benzylaminocarbonylamino-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate melting point: 163°-165° C.
tert.butyl 4'-[(6-allylaminocarbonylamino-2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate oil, Rf value: 0.10 (Silica gel: methylene chloride/ethanol=19:1)

reactant | tert.butyl 4'-[(6-allylaminocarbonylamino-2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(C=C)NC(=O)NC=1C=CC2=C(N(C(=N2)CCCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)OC(C)(C)C)C1 | C33H38N4O3
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | tert.butyl 4'-[(2-n-butyl-6-benzylaminocarbonylamino-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)NC(=O)NCC2=CC=CC=C2 | C37H40N4O3
